US08497263B2
To a mixture of 5-cyclohexyl-3-hydroxy-1-(4-isoxazol-3-ylphenyl)-4-(4-methoxybenzoyl)-1,5-dihydropyrrol-2-one (0.229 g, 0.5 mmol) and dichloromethane (10 mL), 1M boron tribromide in dichloromethane (5.0 mL, 5 mmol) was added under ice-cooling conditions and the mixture was stirred at r.t. for 3 days. Small amount of potassium carbonate was added under ice-cooling conditions to degrade excess boron tribromide. 1N aqueous sodium hydroxide was added and the mixture was washed with ethyl acetate. The aqueous layer was neutralized with 1N hydrochloric acid, the precipitate was collected by filtration and washed with hot ethyl acetate to give 5-cyclohexyl-3-hydroxy-4-(4-hydroxybenzoyl)-1-(4-isoxazol-3-ylphenyl)-1,5-dihydropyrrol-2-one (0.068 g, 31%) as colorless crystals.

reactant | 5-cyclohexyl-3-hydroxy-1-(4-isoxazol-3-ylphenyl)-4-(4-methoxybenzoyl)-1,5-dihydropyrrol-2-one | 0.5 mmol, 0.229 g | C1(CCCCC1)C1C(=C(C(N1C1=CC=C(C=C1)C1=NOC=C1)=O)O)C(C1=CC=C(C=C1)OC)=O | C27H26N2O5
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mmol, 5.0 mL | ClCCl | CH2Cl2
product | 5-cyclohexyl-3-hydroxy-4-(4-hydroxybenzoyl)-1-(4-isoxazol-3-ylphenyl)-1,5-dihydropyrrol-2-one | 0.068 g, 31% | C1(CCCCC1)C1C(=C(C(N1C1=CC=C(C=C1)C1=NOC=C1)=O)O)C(C1=CC=C(C=C1)O)=O | C26H24N2O5
